US07030111B2
Synthesis of 4-bromo-benzoic Acid 4-fluoro-phenyl Ester
Ten ml of dioxane, 5 mmol (1.1 g) of 4-bromo-benzoic acid chlorine, and 5 mmol (0.56 g) of 4-fluoro-phenol were added to 50 ml four-mouth-flask sequentially and dissolved at room temperature. Triethylamine dissolved in dioxane was slowly dripped into this solution and the solution was stirred for three hours at room temperature. The precipitated crystals were filtered and extracted with benzene. The extracted solution was washed with sodium hydrocarbonate several times, magnesium anhydrate was added, and the resulting solution was dried and filtered. The solution was distilled under low pressure and crystallized. The row crystals were yellowish-white, weighing 1.37 g. A portion of this crystal (0.5 g) was dissolved in benzene and purified with 100 g of silica gel (Wako gel C-300, Japan). The purified product was white, and the purity was confirmed to 99.93% by liquid chromatography (LC). The structure was confirmed by NMR as follows. 1H NMR (400 MHz, DMSO-d6) δ 8.05 (2H, d, J=8.8 Hz), 7.83 (2H, d, J=8.8 Hz), 7.38˜7.29 (4H, m) 13C NMR (100 MHz, DMSO-d6) δ 159.72 (C-F, d, J=240 Hz) 163.95 (C═O).

reactant | 4-bromo-benzoic acid chlorine | 5 mmol, 1.1 g | [Cl].BrC1=CC=C(C(=O)O)C=C1
reactant | 4-fluoro-phenol | 5 mmol, 0.56 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | Ten ml | O1CCOCC1 | C4H8O2
product | 4-bromo-benzoic Acid 4-fluoro-phenyl Ester | FC1=CC=C(C=C1)OC(C1=CC=C(C=C1)Br)=O | C13H8BrFO2
